US08378107B2
Step 5: Cyclopropanecarboxylic acid (2-chloro-5-methyl-pyridin-3-ylmethyl)-ethyl-amide
(2-Chloro-5-methyl-pyridin-3-ylmethyl)-ethyl-amine (0.126 g, 0.69 mmol), cyclopropanecarboxylic acid (0.08 mL, 1.03 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.197 g, 1.03 mmol), 1-hydroxybenzotriazole hydrate (0.139 g, 1.03 mmol), and triethylamine (0.29 mL, 2.05 mmol) were combined in CH2Cl2 and stirred at room temperature over the weekend. The mixture was concentrated and purified by silica gel chromatography (0-70% EtOAc in hexanes) to give the title compound.

reactant | (2-Chloro-5-methyl-pyridin-3-ylmethyl)-ethyl-amine | 0.69 mmol, 0.126 g | ClC1=NC=C(C=C1CNCC)C | C9H13ClN2
reactant | cyclopropanecarboxylic acid | 1.03 mmol, 0.08 mL | C1(CC1)C(=O)O | C4H6O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.03 mmol, 0.197 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole hydrate | 1.03 mmol, 0.139 g | O.ON1N=NC2=C1C=CC=C2
reactant | triethylamine | 2.05 mmol, 0.29 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Cyclopropanecarboxylic acid (2-chloro-5-methyl-pyridin-3-ylmethyl)-ethyl-amide | ClC1=NC=C(C=C1CN(C(=O)C1CC1)CC)C | C13H17ClN2O
